US07585881B2
3-[5-(3-Pyridin-4-yl-6,7-dihydro-5H-[1,2,4]triazolo[4,3-a]pyrimidin-8-ylmethyl)[1,3,4]oxadiazol-2-yl]benzonitrile
3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine (172 mg, 0.85 mmol) and 3-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]benzonitrile (94 mg, 0.43 mmol) were dissolved in butanone (5 ml) and K2CO3 (118 mg, 0.85 mmol) and KI (35 mg, 0.21 mmol) were added. The reaction mixture was refluxed for 1 h and the solvent was evaporated. The residue was dissolved in K2CO3 (aq., 1M, 25 ml) and was extracted with DCM. The combined organic layers were dried (Na2SO4) and purified with prep. HPLC to give the title compound (27 mg, 16%). 1H NMR: 8.75 (d, 2H), 8.30 (m, 2H), 7.79 (d, 1H), 7.63 (m, 1H), 7.53 (dd, 2H), 5.57 (d, 2H), 4.06 (t, 2H), 3.58 (t, 2H), 1.99 (m, 2H).

reactant | 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine | 0.85 mmol, 172 mg | N1=CC=C(C=C1)C1=NN=C2N1CCCN2 | C10H11N5
reactant | 3-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]benzonitrile | 0.43 mmol, 94 mg | ClCC1=NN=C(O1)C=1C=C(C#N)C=CC1 | C10H6ClN3O
reactant | K2CO3 | 0.85 mmol, 118 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | butanone | 5 ml | CC(CC)=O | C4H8O
product | 3-[5-(3-Pyridin-4-yl-6,7-dihydro-5H-[1,2,4]triazolo[4,3-a]pyrimidin-8-ylmethyl)[1,3,4]oxadiazol-2-yl]benzonitrile | 27 mg, 16% | N1=CC=C(C=C1)C1=NN=C2N1CCCN2CC2=NN=C(O2)C=2C=C(C#N)C=CC2 | C20H16N8O
